US08183264B2
3-(1-(4-Benzyloxy-benzyl)-1H-[1,2,4]triazol-3-yl)-pyridin-2-ylamine
3-(1H-[1,2,4]triazol-3-yl)-pyridin-2-ylamine (20 mg) described in Manufacturing Example 14-3, 4-benzyloxybenzyl chloride (32 mg), potassium carbonate (86 mg, and DMF (3.0 mL) were stirred for 0.5 hour at 60° C. Water was added to the reaction solution, which was extracted with ethyl acetate. The organic layer was concentrated and purified by NH silica gel column chromatography (heptane:ethyl acetate=2:1, then 1:1) to obtain the titled compound (27 mg).

reactant | 3-(1H-[1,2,4]triazol-3-yl)-pyridin-2-ylamine | 20 mg | N1N=C(N=C1)C=1C(=NC=CC1)N | C7H7N5
reactant | 4-benzyloxybenzyl chloride | 32 mg | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 3-(1-(4-Benzyloxy-benzyl)-1H-[1,2,4]triazol-3-yl)-pyridin-2-ylamine | 27 mg | C(C1=CC=CC=C1)OC1=CC=C(CN2N=C(N=C2)C=2C(=NC=CC2)N)C=C1 | C21H19N5O
